US08865712B2
h) [(2R,5R)-5-(6-Bromo-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester and (2R,5S)-diastereomer
A mixture of (R)-5-(6-Bromo-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine, Boc2O and DIPEA in DCM (4 ml) was stirred at rt for 20 h. The reaction mixture was quenched with sat. aq. NaHCO3 soln. and diluted with DCM. The phases were separated and the aq. phase was twice reextracted with DCM. The combined org. phases were washed with brine, dried over Na2SO4, filtered and concentrated. HPLC purification (Alltech Grom Saphir 65 Si, 10 μm, 250×50 mm column, gradient Hept:EtOAc 0-1.6 min 85:15, 1.6-16 min 0:100, 16-21.2 min 0:100, flow: 100 ml/min, detection: 254 nm) yielded the desired (2R,5R) as well as the undesired (2R,5S) diastereomer. HPLC RtH4=1.28 min (2R,5S), 1.30 min (2R,5R); ESIMS: 452, 454 [(M+H)+]; 1H NMR (2R,5R) (400 MHz, CDCl3): δ 10.98 (br s, 1H), 7.59 (t, 1H), 7.43 (d, 1H), 7.34 (d, 1H), 4.39 (d, 1H), 4.08 (d, 1H), 1.62 (s, 3H), 1.55 (s, 12H); 1H NMR (2R,5S) (400 MHz, CDCl3): δ 11.01 (br s, 1H), 7.57 (t, 1H), 7.42 (d, 1H), 7.37 (d, 1H), 4.45 (d, 1H), 3.91 (d, 1H), 1.74 (s, 3H), 1.65 (s, 3H), 1.55 (s, 19H).

reactant | (R)-5-(6-Bromo-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine | BrC1=CC=CC(=N1)C1(N=C([C@@](OC1)(C(F)(F)F)C)N)C | C12H13BrF3N3O
reactant | Boc2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | [(2R,5R)-5-(6-Bromo-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1[C@@](OC[C@@](N1)(C)C1=NC(=CC=C1)Br)(C(F)(F)F)C)=O | C17H21BrF3N3O3
